Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Palpitations
 
Major Surgical or Invasive Procedure:
atrial flutter ablation ___

 
History of Present Illness:
___ with a PMH of HLD who p/w palpitations and tachycardia. 

Pt was in USOH until ___. He woke up had a cup of coffee. He 
then
shoveled snow for ___ hours (including shoveling snow for his
neighbor), after which he had another cup of coffee and then a
___. 

He began to feel a fluttering sensation in his chest at 6:30 ___
___t this time. He took 2 advil and presented to
urgent care and was found to be in hemodynamically stable narrow
complex tachycardia in the 130s and was referred to the ED. 

Pt denies fevers, chest pain, SOB, lightheadedness, dizziness,
N/V, abdominal pain, diarrhea/constipation, dysuria/urinary
frequency. Pt has experienced this feeling of palpitations
several times before but they don't last very long. He was seen
in urgent care in ___ for an episode of palpitations when
his fitbit showed a heart rate in the 140s. 

In the ED:

Initial vitals: 97.0 135 141/88 19 96% RA 
 
EKG:
1) EKG: narrow complex tachycardia with negative flutter waves 
in
inferior leads and positive in anterior leads consistent with
typical/counterclockwise atrial flutter

Labs/studies notable for:
1) BMP: Na 140, K 4.5, Cl 107, HCO3 22, BN 19, Cr 0.9
2) CBC: WBC 10.5, Hb 15.1, plt 232
3) Trop 0.01

Patient was given:
___ 20:49 IVF  LR  
___ 21:49 IVF  LR 1000 mL  
___ 21:56 IVF  LR 
___ 22:56 IVF  LR 1000 mL 
___ 23:58 IV Adenosine 6 mg   
___ 00:00 IV Adenosine 12 mg   
___ 00:06 IV BOLUS Diltiazem 20 mg 
___ 02:27 PO/NG Apixaban 5 mg  
___ 05:14 IV Metoprolol Tartrate 5 mg  
___ 05:14 PO Metoprolol Tartrate 25 mg 
___ 05:33 IV Metoprolol Tartrate 5 mg 

Consults:
1) Cardiology: Symptomatic typical flutter. Pt should undergo 
TEE
cardioversion. Start metoprolol 25 mg Q6H for rate control while
awaiting DCCV and apixaban 5 mg PO BID. NPO for now

Vitals on transfer: 140 106/65 21 92% RA 
 
On the floor pt denies CP

 
Past Medical History:
Hyperlipidemia
NASH
Obesity
Tinnitus
Hyperplastic colonic polyps
Carpal tunnel syndrome

 
Social History:
___
Family History:
Mother- ___ Cancer
Father- A&W
Sister- ___
Aunt-- ___
 
Physical ___:
ADMISSION PHYSICAL EXAM
=======================
VS: 98.8 PO 133 / 86 L Sitting 137 18 97 RA 
GEN: Sitting up in bed, NAD, diaphoretic
HEENT: PERRL, EOMI
NECK: Supple, no JVD
CARD: tachycardic, S1 + S2 present, no mrg
RESP: CTAB, no wheezing/crackles, breathing comfortably on RA
ABD: SNT, mildly distended, +BS
EXT: WWP, trace ___ edema
NEURO: AOx3, motor function grossly intact

DISCHARGE PHYSICAL EXAM
=======================
24 HR Data (last updated ___ @ 451)
    Temp: 97.5 (Tm 98.0), BP: 149/87 (93-149/65-87), HR: 88
(76-148), RR: 20 (___), O2 sat: 98% (93-98), O2 delivery: RA,
Wt: 311.6 lb/141.34 kg  
Fluid Balance (last updated ___ @ 543) 
  Last 8 hours  Total cumulative -250ml
    IN: Total 300ml, PO Amt 300ml
    OUT:  Total 550ml, Urine Amt 550ml
  Last 24 hours  Total cumulative -790ml
    IN: Total 660ml, PO Amt 660ml
    OUT:  Total 1450ml, Urine Amt 1450ml   
GEN: Sitting up in bed, NAD
HEENT: PERRL, EOMI
NECK: Supple, no JVD
CARD: tachycardic, S1 + S2 present, no mrg
RESP: CTAB, no wheezing/crackles, breathing comfortably on RA
ABD: SNT, mildly distended, +BS
EXT: WWP, no ___ edema
NEURO: AOx3, motor function grossly intact
 
Pertinent Results:
ADMISSION LABS
==============
___ 07:22PM BLOOD WBC-8.8 RBC-4.77 Hgb-14.5 Hct-44.1 MCV-93 
MCH-30.4 MCHC-32.9 RDW-13.2 RDWSD-44.6 Plt ___
___ 07:22PM BLOOD Neuts-59.2 ___ Monos-11.7 Eos-3.3 
Baso-0.7 Im ___ AbsNeut-5.23 AbsLymp-2.15 AbsMono-1.03* 
AbsEos-0.29 AbsBaso-0.06
___ 07:22PM BLOOD Glucose-115* UreaN-20 Creat-0.9 Na-139 
K-4.3 Cl-101 HCO3-21* AnGap-17
___ 08:55AM BLOOD ALT-36 AST-28 LD(LDH)-209 AlkPhos-54 
TotBili-0.5
___ 08:40PM BLOOD cTropnT-<0.01
___ 08:55AM BLOOD Calcium-9.2 Phos-3.3 Mg-1.8
___ 08:55AM BLOOD TSH-1.6

DISCHARGE LABS
==============
___ 06:43AM BLOOD WBC-8.0 RBC-5.05 Hgb-15.2 Hct-46.6 MCV-92 
MCH-30.1 MCHC-32.6 RDW-13.3 RDWSD-45.1 Plt ___
___ 06:43AM BLOOD Plt ___
___ 06:38AM BLOOD Glucose-103* UreaN-22* Creat-1.1 Na-140 
K-4.5 Cl-103 HCO3-28 AnGap-9*
___ 06:38AM BLOOD Calcium-8.9 Phos-4.5 Mg-2.0

IMAGING
=======
TTE ___
CONCLUSION: The left atrial volume index is normal. The right 
atrium is mildly enlarged. There is
no evidence for an atrial septal defect by 2D/color Doppler. The 
right atrial pressure could not be
estimated. There is mild symmetric left ventricular hypertrophy 
with a normal cavity size. There is
normal regional and global left ventricular systolic function. 
Quantitative biplane left ventricular
ejection fraction is 71 %. Left ventricular cardiac index is 
normal (>2.5 L/min/m2). There is no resting
left ventricular outflow tract gradient. No ventricular septal 
defect is seen. Diastolic parameters are
indeterminate. Normal right ventricular cavity size with normal 
free wall motion. The aortic sinus
diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch diameter
is normal with a normal descending aorta diameter. There is no 
evidence for an aortic arch coarctation.
The aortic valve leaflets (3) are mildly thickened. There is no 
aortic valve stenosis. There is no aortic
regurgitation. The mitral valve leaflets are mildly thickened 
with no mitral valve prolapse. There is
trivial mitral regurgitation. The pulmonic valve leaflets are 
normal. The tricuspid valve leaflets appear
structurally normal. There is physiologic tricuspid 
regurgitation. The estimated pulmonary artery
systolic pressure is normal. There is no pericardial effusion.
IMPRESSION: Tachycardia. Mild symmetric left ventricular 
hypertrophy with normal cavity size
and regional/global biventricular systolic function. No valvular 
pathology or pathologic flow
identified. Normal estimated pulmonary artery systolic pressure.
 
Brief Hospital Course:
___ with a PMH of HLD who presents with palpitations and
tachycardia found to have atrial flutter. Tried numerous rate 
control agents without success. EP was consulted and patient had 
flutter ablation done ___. He was discharged with EP follow 
up and 1 month of apixaban. 

ACUTE ISSUES:
=============
# Typical Atrial Flutter: EKG w/ negative flutter waves II, III,
aVF and positive flutter wave in V1 consistent with
typical/anti-clockwise flutter. Patient was complaining of 
"butterflies" but otherwise remained asymptomatic. He had no 
other findings concerning for heart failure. Rates remained very 
elevated. He was started on Apixaban 5mg BID, but his CHADS-VASc 
score was 0 so would likely not need long term anticoagulation. 
He was also started on metoprolol which was uptitrated to 37.5mg 
PO Q6H for rate control. TTE showed mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global biventricular systolic function. No valvular 
pathology or pathologic flow identified. Normal estimated 
pulmonary artery systolic pressure. EF 71%. EP was consulted and 
given history of likely recurrent flutter, planned for flutter 
ablation which was done on ___. Metoprolol was discontinued and 
he was discharged home. Apixaban was continued to be taken for 1 
month following the procedure

CHRONIC ISSUES:
===============
# HLD:
Continued simvastatin 20 mg QD

TRANSITIONAL ISSUES:
====================
# CODE: Full presumed
# CONTACT: HCP: ___ (wife) ___ 

[]Started on Apixaban to be continued until ___ (one month 
following ablation procedure)
[]Recommend outpatient sleep study 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
2.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Atrial Flutter

SECONDARY DIAGNOSIS
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you had heart 
palpitations

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You were found to have an abnormal heart rhythm called atrial 
flutter
- The rhythm doctors saw ___ and recommended a procedure to 
permanently stop the rhythm, which you underwent without 
complication 
- You were started on a blood thinner which you will need to 
take for the next month

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to take your medications as prescribed. 
- You should attend the appointments listed below.  
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, palpitations, chest pain, 
shortness of breath or abdominal distention.
- Your discharge weight: 311.6 lbs. You should use this as your 
baseline after you leave the hospital.  

We wish you the best!
Your ___ Care Team 
 
Followup Instructions:
___